US07728030B2
N-((2S,3S)-4-(2,4-difluorophenoxy)-3-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)butan- 2-yl)-2,2,2-trifluoroacetamide
Prepared as described in Example 1 using (2S,3S)-4-(2,4-difluorophenoxy)-3-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)butan-2-amine (90 mg, 0.21 mmol) and 2,2,2-trifluoroacetic anhydride (0.119 mL, 0.84 mmol). Yield 71 mg (64%)

reactant | (2S,3S)-4-(2,4-difluorophenoxy)-3-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)butan-2-amine | 0.21 mmol, 90 mg | FC1=C(OC[C@H]([C@H](C)N)OC=2C=C3C=NN(C3=CC2)C2=CC=C(C=C2)F)C=CC(=C1)F | C23H20F3N3O2
reactant | 2,2,2-trifluoroacetic anhydride | 0.84 mmol, 0.119 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | N-((2S,3S)-4-(2,4-difluorophenoxy)-3-(1-(4-fluorophenyl)-1H-indazol-5-yloxy)butan- 2-yl)-2,2,2-trifluoroacetamide | FC1=C(OC[C@H]([C@H](C)NC(C(F)(F)F)=O)OC=2C=C3C=NN(C3=CC2)C2=CC=C(C=C2)F)C=CC(=C1)F | C25H19F6N3O3
